US09145392B2
4-amino-6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(4-fluoro-3-methoxyphenyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidine-5-carboxamide (“121”)
A reaction mixture of 4-Amino-6-{4-[1-(2-azetidin-1-yl-ethyl)-4-(4-fluoro-3-methoxy-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile (100.00 mg; 0.21 mmol; 1.00 eq.), DMSO 8 ml was stirred at RT added H2O2 (0.20 ml; 2.10 mmol; 10.00 eq.) and 2.0M NaOH.2.0MNaOH aq (1.05 ml; 2.10 mmol; 10.00 eq.), stirred at RT for 2 hr, got desired as major detected by lc-ms, purified the product by prep HPLC (basic), title compound 66 mg, 63%. LC-MS (M+1=495, obsd.=495).

reactant | 4-Amino-6-{4-[1-(2-azetidin-1-yl-ethyl)-4-(4-fluoro-3-methoxy-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | 0.21 mmol, 100.00 mg, 1.00 eq. | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)OC)CCN1CCC1 | C25H29FN8O
reactant | H2O2 | 2.10 mmol, 0.20 ml, 10.00 eq. | OO | H2O2
reactant | NaOH | 2.0M | [OH-].[Na+]
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
product | 4-amino-6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(4-fluoro-3-methoxyphenyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidine-5-carboxamide | NC1=NC=NC(=C1C(=O)N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)OC)CCN1CCC1 | C25H31FN8O2
